US04868340
54.2 Ml (0.077M) of a 1.42N solution of butyl-lithium in hexane were added at -10/+15° to a solution of 10.0 g (0.055M) of methyl beta-cyclogeranate in 150 ml of anhydrous THF. After having been left at 15° during 5 mn, there were added to the reaction mixture 15.9 ml of a 70% solution of VITRIDE in toluene (0.055M). The temperature of the mixture was then raised to 40° and, at this temperature, it was left under stirring for 45 mn. The mixture was then rapidly poured at 15° onto a solution of 20.35 g (0.275M) of 2-butanol in 100 ml of THF. At the end of the reaction, 150 ml of a 5% aqueous HCl were rapidly added and an extraction was then carried out with ether. The combined organic extracts were washed, dried over Na2SO4 and concentrated to give a residue which, on distillation in a bulb apparatus, gave 7.74 g of beta-cyclocitral (purity: 76%; yield: 70%). By carrying out the hydrolysis with a saturated aqueous solution of ammonium chloride or with aqueous HCl instead of 2-butanol, a mixture of beta-/gamma-cyclocitral was obtained the isomeric content of which was of about 70/30.

reactant | butyl-lithium | C(CCC)[Li]
reactant | VITRIDE | COCCO[AlH2-]OCCOC.[Na+]
reactant | 2-butanol | 0.275M, 20.35 g | CC(CC)O | C4H10O
reactant | HCl | Cl | ClH
reactant | hexane | CCCCCC | C6H14
solvent | THF | 150 ml | C1CCOC1 | C4H8O
solvent | toluene | 0.055M | C1(=CC=CC=C1)C | C7H8
solvent | THF | 100 ml | C1CCOC1 | C4H8O
product | beta-cyclocitral | 7.74 g, yield: 70% | CC1=C(C(CCC1)(C)C)C=O | C10H16O
